US05380724
6-[4-[3-[4-(1-Adamantyl)-1-piperazinyl]-2-hydroxypropoxy]phenyl]-2,4,7-triaminopteridine
A mixture of 4-[3-[4-(1-adamantyl)-1-piperazinyl]-2-hydroxypropoxy]benzylcyanide (3.44 g, 8.4 mmol), 5-nitroso-2,4,6-triamino-pyrimidine (1.08 g, 7.0 mmol) and 0.2N sodium-(2-ethoxyethoxide) in 2-ethoxyethanol (35 ml) was stirred at 120° C. for 30 minutes. After cooling to about 90° C. 100 ml of water was added and the mixture was cooled to room temperature followed by stirring in an ice-water bath for 30 minutes. The precipitate was collected, washed with water and acetonitrile to give the title compound (3.23 g) as a yellow powder, mp. 287°-289° C. (dec.), yield: 84.6%.

reactant | 4-[3-[4-(1-adamantyl)-1-piperazinyl]-2-hydroxypropoxy]benzylcyanide | 8.4 mmol, 3.44 g | C12(CC3CC(CC(C1)C3)C2)N2CCN(CC2)CC(COC2=CC=C(CC#N)C=C2)O | C25H35N3O2
reactant | 5-nitroso-2,4,6-triamino-pyrimidine | 7.0 mmol, 1.08 g | N(=O)C=1C(=NC(=NC1N)N)N | C4H6N6O
reactant | sodium-(2-ethoxyethoxide) | 0.2N | C(C)OCC[O-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | 2-ethoxyethanol | 35 ml | C(C)OCCO | C4H10O2
product | 6-[4-[3-[4-(1-Adamantyl)-1-piperazinyl]-2-hydroxypropoxy]phenyl]-2,4,7-triaminopteridine | 3.23 g, yield: 84.6% | C12(CC3CC(CC(C1)C3)C2)N2CCN(CC2)CC(COC2=CC=C(C=C2)C=2N=C3C(=NC(=NC3=NC2N)N)N)O | C29H39N9O2
